US08383786B2
Preparation of acetic acid 5-acetyl-indan-2-yl ester (Compound E-24)
To a mixture at 5-10° C. of aluminum chloride (AlCl3; 30.6 g, 0.229 mol) in carbon disulfide (CS2; 160 mL) was added acetyl chloride (12 mL, 13.2 g, 0.169 mol). To this mixture was added a solution of acetic acid indan-2-yl ester (19.9 g, 0.113 mol, prepared according to the method described in Can. J. Chem. 1967, 45, 1185) in acetyl chloride (12 mL) keeping the temperature below 11° C. The contents were stirred at 5° C. for 3 h and were then carefully added to ice-water (350 mL) containing concentrated HCl (60 mL). The mixture was extracted with CH2Cl2 (2×), and the combined extracts were washed with H2O and were dried over Na2SO4. Concentration gave the title compound (23.8 g, 97%) as a solid: 1H NMR δ 7.84 (s, 1H), 7.82 (m, 1H), 7.32 (d, J=7.0 Hz, 1H), 5.55 (m, 1H), 3.40-3.32 (m, 2H), 3.10-3.05 (m, 2H), 2.60 (s, 3H), 2.04 (s, 3H); EIMS m/z 158 ([M-AcOH]+, 42), 143 (100).

reactant | aluminum chloride | 0.229 mol, 30.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetic acid indan-2-yl ester | C1C(CC2=CC=CC=C12)OC(C)=O | C11H12O2
reactant | HCl | 60 mL | Cl | ClH
reactant | acetyl chloride | 12 mL | C(C)(=O)Cl | C2H3ClO
reactant | acetyl chloride | 0.169 mol, 12 mL, 13.2 g | C(C)(=O)Cl | C2H3ClO
solvent | carbon disulfide | 160 mL | C(=S)=S | CS2
product | acetic acid 5-acetyl-indan-2-yl ester | 23.8 g, 97% | C(C)(=O)C=1C=C2CC(CC2=CC1)OC(C)=O | C13H14O3
